US08217177B2
A sealable microwave vial was charged with N′-(6-chloropyridazin-3-yl)-2,2-difluoro-2-(3-(2-methoxyethoxy)quinolin-6-yl)acetohydrazide (46.98 mg, 111 μmol), 1,2-dimethoxyethane (1.5 mL), and 1 drop of conc. HCl. The vial was sealed and heated at 130° C. for 40 min. The solution was concentrated and purified by MPLC (Teledine Isco combiFlash Companion). The residue was taken up in minimal CH2Cl2 and absorbed onto a 5 g loading cartridge and passed through a Redi-Sep® pre-packed silica gel column (12 g) using 98:2 CH2Cl2: MeOH to 90:10 CH2Cl2:MeOH to afford 6-((6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)difluoromethyl)-3-(2-methoxyethoxy)quinoline (25.3 mg, 56.2% yield) as a colorless solid. LRMS (ESI) m/z calcd for C18H15ClF2N5O2 (M+H) 406.1. found 406.2.

reactant | N′-(6-chloropyridazin-3-yl)-2,2-difluoro-2-(3-(2-methoxyethoxy)quinolin-6-yl)acetohydrazide | 111 μmol, 46.98 mg | ClC1=CC=C(N=N1)NNC(C(C=1C=C2C=C(C=NC2=CC1)OCCOC)(F)F)=O | C18H16ClF2N5O3
reactant | 1,2-dimethoxyethane | 1.5 mL | COCCOC | C4H10O2
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | HCl | 1 drop | Cl | ClH
solvent | MeOH | CO | CH4O
product | 6-((6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)difluoromethyl)-3-(2-methoxyethoxy)quinoline | 25.3 mg, 56.2% yield | ClC=1C=CC=2N(N1)C(=NN2)C(C=2C=C1C=C(C=NC1=CC2)OCCOC)(F)F | C18H14ClF2N5O2
